US03962222
B. 3a,4,6,7-Tetrahydro-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-2(3H)-ethanamine
3a,4,6,7-Tetrahydro-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-2(3H)-ethanol is suspended in pyridine and treated with one equivalent of tosyl chloride. After standing at room temperature for about 16 hours, the mixture is poured into water and the tosylate is dissolved in ethanol, cooled and saturated with ammonia gas. After standing for 3 days, the excess ammonia and solvent are removed by evaporation to give the title compound.

reactant | 3a,4,6,7-Tetrahydro-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-2(3H)-ethanol | C1(=CC=CC=C1)C1C2C(=NN1CCO)C(CSC2)=CC2=CC=CC=C2 | C21H22N2OS
reactant | tosyl chloride | one equivalent | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | ammonia | N | H3N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 3a,4,6,7-Tetrahydro-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-2(3H)-ethanamine | C1(=CC=CC=C1)C1C2C(=NN1CCN)C(CSC2)=CC2=CC=CC=C2 | C21H23N3S
